US05726306
Trans-7-chloro-5-(2-chlorophenyl)-1-isobutyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetamide
1.0 g of trans-7-chloro-5-(2-chlorophenyl)-1-isobutyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid and 0.5 g of ammonium chloride were dissolved in 8 mi of dimethylformamide, and 0.46 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 0.7 ml of triethylamine were added, followed by stirring at room temperature for 30 minutes. After water was added, the solution was extracted with ethyl acetate, followed by washing with water, after which the solvent was removed and the residue was recrystallized to yield 0.75 g of a crystal.

reactant | trans-7-chloro-5-(2-chlorophenyl)-1-isobutyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid | 1.0 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)C)=O)CC(=O)O)C2=C(C=CC=C2)Cl)C1 | C21H21Cl2NO4
reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.46 g | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Trans-7-chloro-5-(2-chlorophenyl)-1-isobutyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetamide | 0.75 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)C)=O)CC(=O)N)C2=C(C=CC=C2)Cl)C1 | C21H22Cl2N2O3
